US06770596B1
Preparation of 8-[4-Chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-5,5-dimethyl-9-fluoro-5H-pyrazino[1,2,3-de]-1,4-benzoxazine-3,6(2H, 7H)-dione (Compound No. 1-15).
5-(2-Bromoisobutyrylamino)-6-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-7-fluoro-2H-1,4-benzoxazine-3(4H)-one (1.15 g, 2.24 mmol) was dissolved in anhydrous acetonitrile (50 ml) and potassium iodide (0.45 g, 2.70 mmol) and potassium carbonate (0.37 g, 2.70 mmol) were added. Solution was refluxed for 2 hr and water was added. Product was extracted with ethyl acetate and solvent evaporated. Column chromatography on silica gel using hexane-ethyl acetate (7:3) as eluent afforded the title compound (84.0 mg, 0.19 mmol).

reactant | 5-(2-Bromoisobutyrylamino)-6-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-7-fluoro-2H-1,4-benzoxazine-3(4H)-one | 2.24 mmol, 1.15 g | BrC(C(=O)NC1=C(C(=CC2=C1NC(CO2)=O)F)C2=NN(C(=C2Cl)C(F)(F)F)C)(C)C | C17H14BrClF4N4O3
reactant | potassium iodide | 2.70 mmol, 0.45 g | [I-].[K+]
reactant | potassium carbonate | 2.70 mmol, 0.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 8-[4-Chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-5,5-dimethyl-9-fluoro-5H-pyrazino[1,2,3-de]-1,4-benzoxazine-3,6(2H, 7H)-dione | 0.19 mmol, 84.0 mg | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C2C=3N(C(CO2)=O)C(C(NC13)=O)(C)C)F | C17H13ClF4N4O3
